US06720320B2
(S)-2-(7-glycidyloxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 2-(7-hydroxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole (2.4 g) and (S)-glycidyl nosylate (2.2 g), the title compound (1.0 g) was obtained as white crystals.

reactant | 2-(7-hydroxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole | 2.4 g | OC1=CC=CC2=C1OC(=C2)C=2OC(=NN2)C(F)(F)F | C11H5F3N2O3
reactant | (S)-glycidyl nosylate | 2.2 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
product | (S)-2-(7-glycidyloxybenzo(b)furan-2-yl)-5-trifluoromethyl-1,3,4-oxadiazole | 1.0 g | C([C@@H]1CO1)OC1=CC=CC2=C1OC(=C2)C=2OC(=NN2)C(F)(F)F | C14H9F3N2O4
